US04371605
N-Methanesulfonyloxytetrachlorophthalimide was prepared by the following procedure. To a flask equipped with a stirrer and addition funnel were added N-hydroxytetrachlorophthalimide (9.00 g, 0.030 mol), methanesulfonyl chloride (3.60 g, 0.032 mol), and 200 mL of methylene chloride. The mixture was cooled in ice and a solution of triethylamine (5.0 mL, 0.036 mol) in 25 mL of methylene chloride was added slowly. Upon completion of this addition the reaction mixture was diluted with 200 mL of methylene chloride and washed successively with water (250 mL), 5% aqueous sodium bicarbonate (250 mL), and water (250 mL). The organic layer which contained a substantial amount of precipitated product was evaporated, and the resulting solid was dried by addition of toluene and evaporation to give 9.89 g (87.0%) of pale yellow crystalline N-methanesulfonyloxytetrachlorophthalimide: mp 240°-241°; uv (CH3CN) 240 (51,400), 329 (2736), 340 nm (2937); ir (KBr) 3040 (w), 3020 (w), 2940 (w), 1800 (m), 1700 (vs), 1375 (s), 1330 (m), 1310 (m), 1180 (s), 1120 (m), 1030 (s), 965 (m), 790 (m), 725 (s); nmr (CDCl3) 3.53 (s); mass spectrum 376.8472 (calcd for C9H3NO5Cl4S: 376.8783). Anal. Calcd for C9H3NO5Cl4S: C, 28.52; H, 0.80; N, 3.70; O, 21.11; Cl, 37.42; S, 8.46. Found: C, 28.52, 28.94, 28.92; H, 0.80, 1.07, 1.05; N, 3.70, 3.84, 3.82; Cl, 37.42, 37.08.

reactant | N-hydroxytetrachlorophthalimide | 0.030 mol, 9.00 g | ON1C(C=2C(C1=O)=C(C(=C(C2Cl)Cl)Cl)Cl)=O | C8HCl4NO3
reactant | methanesulfonyl chloride | 0.032 mol, 3.60 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.036 mol, 5.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-methanesulfonyloxytetrachlorophthalimide | 9.89 g, 87.0% | CS(=O)(=O)ON1C(C=2C(C1=O)=C(C(=C(C2Cl)Cl)Cl)Cl)=O | C9H3Cl4NO5S
